US04107229
A vinyl terminated, fully reacted urethane acrylate was prepared from the glycerine-modified hydroxyalkylated novolac of Example 16 in the following manner: A mixture of 1155 parts of styrene solvent, 415 parts of hydroxypropyl methacrylate, and 0.4 parts of p-benzoquinone was stirred while 519 parts of toluene diisocyanate (a mixture of approximately 80 percent 2,4-isomer and 20 percent 2,6-isomer) was added slowly so that the temperature did not exceed 45° C. The temperature was then raised to 55° C and maintained thereat for about 30 minutes. Then 510 parts of glycerine-modified hydroxypropylated novolac, prepared as in Example 16 was added and the reaction mixture was heated to 65° C an maintained at that temperature for about 4 hours. The liquid resin, thus prepared had a Brookfield viscosity of 120 centipoises at 25° C.

reactant | hydroxypropyl methacrylate | C(C(=C)C)(=O)OCCCO | C7H12O3
reactant | p-benzoquinone | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | toluene diisocyanate | CC=1C(N=C=O)=CC(N=C=O)=CC1 | C9H6N2O2
reactant | glycerine | OCC(O)CO | C3H8O3
solvent | styrene | C=CC1=CC=CC=C1 | C8H8
product | urethane acrylate | C(C=C)(=O)O.NC(=O)OCC | InChI=1S/C3H7NO2.C3H4O2/c1-2-6-3(4)5;1-2-3(4)5/h2H2,1H3,(H2,4,5);2H,1H2,(H,4,5)
